US05929097
2-Amino-3,6-dimethyl-benzoic acid benzyl ester
A mixture of 940 mg (5.73 mmol) of 2-amino-3,6-dimethylbenzoic acid, 0.750 ml (6.3 mmol) of benzyl bromide, 1.04 g (7.5mmole) of potassium carbonate and 40 mg (0.27mmole) of soium iodide in 20 ml of acetone was heated to reflux for 20 hr. The resulting mixture was then concentrated in vacuo and the residue was chronatoghed with EtOAc/Hexane (1:50) as eluant to provide 697 mg (48%) of the desired product as a yellow oil. Electrospray Mass Spec 256 (M+H).

reactant | 2-amino-3,6-dimethylbenzoic acid | 5.73 mmol, 940 mg | NC1=C(C(=O)O)C(=CC=C1C)C | C9H11NO2
reactant | benzyl bromide | 6.3 mmol, 0.750 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 7.5mmole, 1.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodide | 0.27mmole, 40 mg | [I-]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-Amino-3,6-dimethyl-benzoic acid benzyl ester | 697 mg, 48% | C(C1=CC=CC=C1)OC(C1=C(C(=CC=C1C)C)N)=O | C16H17NO2
